US05741926
2-((2-Bromoacetyl)amino)-5-methoxybenzoic Acid
To a solution of 2-amino-5-methoxybenzoic acid (5.0 g, 0.03 mol) in anhydrous DMF (30 mL) and dioxane (30 mL) was added, dropwise, bromoacetyl bromide (6.0 g, 2.6 mL, 100 mol %) while keeping the internal temperature between 0° and 2° C. After the addition was completed (~30 min), the reaction mixture was stirred overnight at rt. The reaction mixture was diluted with water (100 mL), and then the precipitated product was filtered, washed sequentially with 5% HBr (300 mL) and water (300 mL), and then dried in a vacuum oven at 40°-45° C., affording 5.6 g (65%) of the title compound as a light grey solid: mp 171.5°-172.7° C.; 1H NMR (DMSO-d6) δ11.26 (s, 1H, NH), 8.30 (d, 1H, J=9.2), 7.44 (d, 1H, J=3.2), 7.22 (dd, 1H, J=3.2, J=9.2), 4.22 (s, 2H), 3.78 (s, 3H); 13C NMR (DMSO-d6) δ168.69, 164.52, 154.75, 133.03, 122.13, 119.83, 119.04, 114.87, 55.40, 30.59; MS (EI, m/z)287 (M+). HRMS (EI) calcd for C10H10NO4Br 286.9793, found 286.9793.

reactant | 2-amino-5-methoxybenzoic acid | 0.03 mol, 5.0 g | NC1=C(C(=O)O)C=C(C=C1)OC | C8H9NO3
reactant | bromoacetyl bromide | 2.6 mL, 6.0 g | BrCC(=O)Br | C2H2Br2O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | water | 100 mL | O | H2O
product | 2-((2-Bromoacetyl)amino)-5-methoxybenzoic Acid | 5.6 g, 65% | BrCC(=O)NC1=C(C(=O)O)C=C(C=C1)OC | C10H10BrNO4
